2185-05-24 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Admitted from ED with CVL and intubated.
   - Required several boluses of IVF
   - Started levaphed for hypotension
   - Started insulin gtt for persistant hyperglycemia
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2185-5-24**] 03:22 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 73 (66 - 104) bpm
   BP: 108/51(66) {79/41(49) - 121/68(87)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.9 kg (admission): 50 kg
    CVP: 18 (0 - 18)mmHg
   Total In:
                                                                  3,769 mL
                                                                  2,253 mL
   PO:
   TF:
   IVF:
                                                                  3,589 mL
                                                                  2,253 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    380 mL
   Urine:
                                                                    380 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,389 mL
                                                                  1,873 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 488 (417 - 488) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.43/30/96.[**Numeric Identifier 7**]/20/-2
   Ve: 7.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, MM dry, oropharynx clear, PERRL
   Neck: supple, JVP flat, no LAD
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: Tachy, reg rhythm with premature beats, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   skin tenting improved
   Labs / Radiology
   326 K/uL
   9.7 g/dL
   199 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.4 mEq/L
   21 mg/dL
   133 mEq/L
   160 mEq/L
   30.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2185-5-23**]  03:24 PM
                             [**2185-5-23**]  05:41 PM
                             [**2185-5-23**]  10:19 PM
                             [**2185-5-24**]  01:17 AM
                             [**2185-5-24**]  01:41 AM
                             [**2185-5-24**]  05:33 AM
   WBC
   13.5
   Hct
   30.8
   Plt
   326
   Cr
   1.1
   0.9
   1.0
   1.0
   TCO2
   22
   21
   Glucose
   [**Telephone/Fax (3) 7543**]99
   Other labs: PT / PTT / INR:14.2/27.9/1.2, Lactic Acid:1.3 mmol/L,
   Ca++:6.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Ca: 6.5 Mg: 1.8 P: 1.8
   PT: 14.2
   PTT: 27.9
   INR: 1.2
[**2185-5-23**] 10:18 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2185-5-24**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   Assessment and Plan
   77 yo M with hx of diabetes, parkinsons, demetia who presents with
   bibasilar pneumona and sepsis.
   Sepsis/Pneumonia: Likely source is pulmonary.  He required intubation
   for agitation and ? aspiration during line placement.  His infection is
   complicated by severe dehydration and hypernatremia. Lactate initailly
   9.0 but responded to fluids and now in normal range. Urine legionella
   Ag Negative.  Currently on propofol for sedation which may be affecting
   his blood pressures.
   - IV Fluids to keep MAP>60, CVP>12, and UOP>30
   - Wean levaphed as tolerated
   - f/u blood, urine and sputum cx
   - continue vanc, levo, flagyl
   - wean vent settings as tolerated
   - AM CXR
   Respiratory Failure:  Patient intubed in the emergency room for
   agitation and concern for his airway.  Currently requiring minimal
   ventilatory support.  Will plan to wean propofol, perform SBT and
   consider extubation this morning.
   - wean propofol
   - SBT
   - RSBI
   - consider extubation this morning
    Hypernatremia: Patient was extremely dry on exam with initial Na of
   174 which came down with IV hydration.  Likely due to sepsis.
   Calculated free H2O deficit of ~8L.
   - Q6h Na checks
   - D5
 NS to correct Na by [**11-19**] tonight.
   - can transition to flushes down OG tube once more stable
   .
    ARF: FeNa of 1.8 after 6 L of NS suggesting he was pre-renal. Now
   resolved
   - monitor UOP and cr
   DM type II:  Arrived with glucoses in the 300 range likely [**12-20**] to
   sepsis.  Was on Metformin which may have compounded lactic acidosis.
   - hold metformin and glyburide
   - ISS
   Parkinsons: Was tremulous on presentation, but without significant
   rigidity.
   - continue sinemet down OGT
   Alzhemers Demetia: Unclear baseline mental status
   - continue aricept.
   Glaucoma: continue eye drops.
   FEN: NS for resuscitation and D5
 NS for hyponatremia, replete
   electrolytes, Nutrition consult for tube feeds.
   Prophylaxis: Subcutaneous heparin
   Access: R IJ
   Code:  Full (discussed with HCP)
   Communication: Wife [**Name (NI) 293**] [**Name (NI) **] [**Telephone/Fax (1) 7535**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: Consult for TF
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2185-5-23**] 02:39 PM
   18 Gauge - [**2185-5-23**] 02:39 PM
   16 Gauge - [**2185-5-23**] 02:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2185-05-24 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, LLL Pneumonia
   24 Hour Events:
   On Levophed since late pm yest for fluid-unresponsive hypotension
   (total resuscitation ~9L IVF)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2185-5-24**] 03:22 AM
   Vancomycin - [**2185-5-24**] 08:33 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Other medications:
   Colace, Sinemet, Flagyl, Vanco, Pepcid, heparin, Propofol, Aricept,
   Levofloxacin, Simvastatin, Norepi gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-24**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 72 (66 - 104) bpm
   BP: 106/53(66) {79/41(49) - 121/68(87)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.9 kg (admission): 50 kg
   CVP: 18 (0 - 18)mmHg
   Total In:
                                                                  3,769 mL
                                                                  2,820 mL
   PO:
   TF:
   IVF:
                                                                  3,589 mL
                                                                  2,820 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    535 mL
   Urine:
                                                                    380 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,389 mL
                                                                  2,285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 420 (417 - 488) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.43/30/96.[**Numeric Identifier 7**]/20/-2
   Ve: 8.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : R axilla)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   326 K/uL
   199 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.4 mEq/L
   21 mg/dL
   133 mEq/L
   160 mEq/L
   30.8 %
   13.5 K/uL
        [image002.gif]
                             [**2185-5-23**]  03:24 PM
                             [**2185-5-23**]  05:41 PM
                             [**2185-5-23**]  10:19 PM
                             [**2185-5-24**]  01:17 AM
                             [**2185-5-24**]  01:41 AM
                             [**2185-5-24**]  05:33 AM
   WBC
   13.5
   Hct
   30.8
   Plt
   326
   Cr
   1.1
   0.9
   1.0
   1.0
   TCO2
   22
   21
   Glucose
   [**Telephone/Fax (3) 7543**]99
   Other labs: PT / PTT / INR:14.2/27.9/1.2, Lactic Acid:1.3 mmol/L,
   Ca++:6.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR ([**5-23**])- RLL infiltrate, ? LLL infiltrate
   CXR ([**5-24**])- ETT 3.2cm above carina, R IJ in place, LLL infiltrate
   Microbiology: [**5-23**] Sputum- GPCs in pairs and clusters, budding yeast
   [**5-23**] Blood, Urine- pending
   Legionella Ag- neg
   Assessment and Plan
   77 yo M with hx of diabetes, parkinsons, dementia who presents with
   bibasilar pneumonia and septic shock.
   Respiratory Failure: intubated for airway protection in the setting of
   possible aspiration during line placement
   -stable on minimal vent settings
   -good RSBI this am, good cough and gag, minimal secretions
   -wean sedation on PSV and possibly extubate if tolerated
   Sepsis: likely due to pneumonia, on minimal norepi gtt after sig fluid
   resuscitation
   -better UOP and CVP, lactate normalized
   -hypotension may be due to propofol which we will wean today
   -continue vanco + levoflox + flagyl another 24-48h and narrow based on
   culture data
   Hypernatremia: continue hypotonic fluid resuscitation now w/ D5 1/2 NS
   and follow Na serially (q6 today)
   ARF: resolving with fluids and sepsis mgmt, still oliguric but
   improving
   -trend creat and renally dose meds
   DM:
   -continue holding metforming and glyburide
   -cont RISS
   Parkinsons: cont Sinemet
   ICU Care
   Nutrition:
   Comments: NG tube today and Nutrition consult
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2185-5-23**] 02:39 PM
   18 Gauge - [**2185-5-23**] 02:39 PM
   16 Gauge - [**2185-5-23**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Chinese-speaking only
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-05-25 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubated
   - Weaned off levophed
   - Pt resisted NG tube. Placed on aspiration precautions. Bedside
   swallow trial unsuccessful [**12-20**] AMS.
   - PM Na 150. At goal for day, so d/c D5 1/2NS with plan to restart if
   FSG <200 on insulin gtt. Insulin gtt stopped as FSG <100.
   - [**2185-5-23**] 1 of 2 sets Aerobic bottle: GPC in pairs and clusters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-24**] 08:33 AM
   Levofloxacin - [**2185-5-24**] 08:00 PM
   Metronidazole - [**2185-5-24**] 08:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-5-25**] 12:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-25**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.1
C (97
   HR: 91 (71 - 103) bpm
   BP: 117/66(77) {89/44(60) - 156/132(137)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.9 kg (admission): 50 kg
   Height: 62 Inch
    CVP: 12 (1 - 18)mmHg
   Total In:
                                                                  5,472 mL
                                                                    609 mL
   PO:
   TF:
   IVF:
                                                                  5,472 mL
                                                                    609 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    560 mL
   Urine:
                                                                  2,115 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,357 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 8.2 L/min
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, MMM,
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: Tachy, reg rhythm with premature beats, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   271 K/uL
   10.3 g/dL
   177 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   11 mg/dL
   119 mEq/L
   150 mEq/L
   30.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2185-5-23**]  03:24 PM
                             [**2185-5-23**]  05:41 PM
                             [**2185-5-23**]  10:19 PM
                             [**2185-5-24**]  01:17 AM
                             [**2185-5-24**]  01:41 AM
                             [**2185-5-24**]  05:33 AM
                             [**2185-5-24**]  12:53 PM
                             [**2185-5-25**]  04:27 AM
   WBC
   13.5
   11.4
   Hct
   30.8
   32.8
   30.8
   Plt
   326
   271
   Cr
   1.1
   0.9
   1.0
   1.0
   0.8
   0.8
   TCO2
   22
   21
   Glucose
   [**Telephone/Fax (3) 7543**]99
   177
   177
   Other labs: PT / PTT / INR:15.6/42.7/1.4, Lactic Acid:1.3 mmol/L,
   Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
[**2185-5-23**] 9:30 am BLOOD CULTURE      # 1.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2185-5-25**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
[**2185-5-23**] 10:18 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2185-5-24**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   NO other studies
   Assessment and Plan
   77 yo M with hx of diabetes, parkinsons, demetia who presents with
   bibasilar pneumona and sepsis.
   Sepsis/Pneumonia: Likely source is pulmonary.  He required intubation
   for agitation and ? aspiration during line placement.  His infection is
   complicated by severe dehydration and hypernatremia. Lactate initailly
   9.0 but responded to fluids and now in normal range. Urine legionella
   Ag Negative.  Extubated and transitioned off pressors yesterday.
   - IV Fluids to keep MAP>60, CVP>12, and UOP>30
   - f/u blood, urine and sputum cx
   - continue vanc, levofloxacin for hospital acquired pneumonia for 7 day
   course
   - will discontinue flagyl as low suspicion for anerobic infection
    Hypernatremia: Patient was extremely dry on exam with initial Na of
   174 which came down with IV hydration.  Likely due to sepsis.
   Calculated free H2O deficit of ~8L on presentation.  Has corrected well
   with D5
 NS.  Unable to participate with speech and swallow.
   - [**Hospital1 **] Na checks
   - D5
 NS @ 150 cc/hr to correct Na until S&S can  eval
   - Failed swallow eval again today
   - will reattempt NGT today with ativan
    ARF: FeNa of 1.8 after 6 L of NS suggesting he was pre-renal. Now
   resolved
   - monitor UOP and cr
   DM type II:  Arrived with glucoses in the 300 range likely [**12-20**] to
   sepsis.  Was on Metformin which may have compounded lactic acidosis.
   He was put on insulin gtt and transitioned back to sub Q insulin when
   Glucose was normalized
   - hold metformin and glyburide
   - ISS
   Parkinsons: Was tremulous on presentation, but without significant
   rigidity.
   - will restart sinemet when able to place NGT
   - In setting of parkinsons, can only use seroquel or clozaril for
   agitation which are both PO meds
   Alzhemers Demetia: Unclear baseline mental status
   - continue aricept when taking POs.
   Glaucoma: continue eye drops
   ICU Care
   Nutrition: NPO awaiting S&S c/s, will reattempt NGT
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2185-5-23**] 02:39 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments: Wife [**Name (NI) 293**] [**Name (NI) **] [**Telephone/Fax (1) 7535**]
   Code status: Full
   Disposition: Call out to floor

2185-05-25 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, Sepsis, LL pneumonia
   24 Hour Events:
   failed bedside swallow eval. unable to place NGT due to agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2185-5-24**] 08:00 PM
   Metronidazole - [**2185-5-25**] 04:28 AM
   Vancomycin - [**2185-5-25**] 08:15 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2185-5-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-5-25**] 08:00 AM
   Other medications:
   Colace, Sinemet (not receiving), Aricept (not receiving), simvastatin
   (not receiving)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-25**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 80 (74 - 103) bpm
   BP: 123/59(75) {89/44(42) - 156/132(137)} mmHg
   RR: 18 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.9 kg (admission): 50 kg
   Height: 62 Inch
   CVP: 12 (1 - 12)mmHg
   Total In:
                                                                  5,472 mL
                                                                  1,059 mL
   PO:
   TF:
   IVF:
                                                                  5,472 mL
                                                                  1,059 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                  1,105 mL
   Urine:
                                                                  2,115 mL
                                                                  1,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,357 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, delirious but not agitated
   Labs / Radiology
   10.3 g/dL
   271 K/uL
   177 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   11 mg/dL
   119 mEq/L
   150 mEq/L
   30.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2185-5-23**]  03:24 PM
                             [**2185-5-23**]  05:41 PM
                             [**2185-5-23**]  10:19 PM
                             [**2185-5-24**]  01:17 AM
                             [**2185-5-24**]  01:41 AM
                             [**2185-5-24**]  05:33 AM
                             [**2185-5-24**]  12:53 PM
                             [**2185-5-25**]  04:27 AM
   WBC
   13.5
   11.4
   Hct
   30.8
   32.8
   30.8
   Plt
   326
   271
   Cr
   1.1
   0.9
   1.0
   1.0
   0.8
   0.8
   TCO2
   22
   21
   Glucose
   [**Telephone/Fax (3) 7543**]99
   177
   177
   Other labs: PT / PTT / INR:15.6/42.7/1.4, Lactic Acid:1.3 mmol/L,
   Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Microbiology: [**5-23**] Blood 1/4 bottles- GPCs
   [**5-23**] Sputum- GPCs not speciated
   Assessment and Plan
   77 yo M with hx of diabetes, parkinsons, dementia who presents with
   bibasilar pneumonia and septic shock.
   Sepsis: likely due to pneumonia, now hemodynamically stable off
   pressors x 24h
   -better UOP and CVP, lactate normalized
   -continue vanco + levoflox (dc flagyl today) x total 7d (day 3 today)
   Hypernatremia: continue hypotonic fluid resuscitation now w/ D5 1/2 NS
   and follow Na serially (q6 today)
   DM: continue holding metformin and glyburide, cont RISS
   Parkinsons: cont Sinemet
   -once NGT access obtained can use Seroquel for agitation
   Nutrition: failed swallow study, needs some access for nutrition
   -will attempt NGT placement with very small dose of benzo if needed (no
   more than 0.5mg Ativan) as Sinemet may
   -may need to discuss long-term nutrition
   ICU Care
   Nutrition:
   Comments: npo as has failed swallow evals
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-5-23**] 02:39 PM
   Comments: will keep CVC given inability to get alternate access
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes